US03953464
24 g. 3-imino-1-phenyl-3H-1,2-benzisothiazole-1-oxide, 13.2 g. triethylamine and 21 g. 4-chlorophenoxyacetyl chloride are heated under reflux for 1 hour in 1 liter chloroform. After working up the reaction mixture in the usual manner, there is obtained 3-(4-chlorophenoxyacetylimino)-1-phenyl-3H-1,2-benzisothiazole-1-oxide which, after recrystallisation from acetonitrile, is obtained in the form of colourless, felted needles melting at 196°C.

reactant | 3-imino-1-phenyl-3H-1,2-benzisothiazole-1-oxide | N=C1NS(C2=C1C=CC=C2)(C2=CC=CC=C2)=O | C13H12N2OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenoxyacetyl chloride | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-chlorophenoxyacetylimino)-1-phenyl-3H-1,2-benzisothiazole-1-oxide | ClC1=CC=C(OCC(=O)N=C2NS(C3=C2C=CC=C3)(C3=CC=CC=C3)=O)C=C1 | C21H17ClN2O3S
